US07968570B2
7-Chloro-5-piperidin-4-ylmethyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one
4-[7-Chloro-1-oxo-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-1H-isoindol-5-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester (54.90 mg, 0.102 mmol) was stirred in dichloromethane (2 mL) and trifluoroacetic acid (2 mL) overnight. The reaction mixture was quenched with sodium carbonate to pH=8-9 and the free base was extracted with dichloromethane. The organic layer was washed with water, brine, dried over sodium sulfate, filtered and concentrated to provide the title compound (48.9 mg, 100%). 1H NMR (300 MHz, CDCl3): δ 7.39 (d, 2H), 7.18 (d, 3H), 7.06 (s, 1H), 4.77 (s, 2H), 4.61 (broad s, 1H), 4.23 (s, 2H), 3.16 (d, 2H), 2.62 (m, 4H), 1.61 (d, 3H), 1.29 (m, 2H).

reactant | 4-[7-Chloro-1-oxo-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-1H-isoindol-5-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.102 mmol, 54.90 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC(F)(F)F | C27H30ClF3N2O4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 7-Chloro-5-piperidin-4-ylmethyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one | 48.9 mg, 100% | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)CC1CCNCC1 | C22H22ClF3N2O2
